US04314061
3,6-bis[3-(4-methyl-1-piperazinyl)propoxy]acridine
The compound is prepared from 3,6-bis(3-chloropropoxy)acridine hydrochloride and N-methylpiperazine as described in Example 44.

reactant | 3,6-bis(3-chloropropoxy)acridine hydrochloride | Cl.ClCCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCCl
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 3,6-bis[3-(4-methyl-1-piperazinyl)propoxy]acridine | CN1CCN(CC1)CCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCN1CCN(CC1)C | C29H41N5O2
